US08030337B2
2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethanamine
To a solution of (6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)acetonitrile (210 mg, 1.07 mmol) in ethanol (8 mL) were added Raney cobalt (2 g) and 2N ammonia/ethanol solution (4 mL), and the mixture was stirred at room temperature for 5 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=50/50→100/0) to give the title compound (60.2 mg, yield 28%).

reactant | (6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)acetonitrile | 1.07 mmol, 210 mg | O1C=NC2=C1C=1C(CCC1C=C2)=CC#N | C12H8N2O
reactant | ammonia ethanol | 2N, 4 mL | N.C(C)O
solvent | ethanol | 8 mL | C(C)O | C2H6O
catalyst | cobalt | 2 g | [Co] | Co
product | 2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethanamine | 60.2 mg, yield 28% | O1C=NC2=C1C=1C(CCC1C=C2)=CCN | C12H12N2O
